datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:10]1([Na:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[Na+:11] 10,11=10,20"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10](C1=CC=CC=C1)[C:11](=[N+:12]1CCCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:11]([H:10])[O:12]C1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>C1C[CH:11]=[O+:12]C1.COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([H:10])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[C:11]1=[N:10]CC[O:12]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[O+:12]=[C:11]2C)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10]>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C 10,11=10,20;20,21=21,22;22,23=23"
"C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].C[Si:11](C)([H:10])[CH2:62][Sn:63](C)(C)C>>C[C:21]([CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25].C[Si+:11](C)[CH2:62][Sn:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64]>>CC(C)(C)[C:11]([CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCOCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[S+:61](C)([CH2-:10])=[O:62].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[S+:61](C)([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)=[O:62] 10=20
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)C=C1 10=20;20,21=21"
"CC(C)=[N:10]C1=CC=CC=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC(C)=[N+:10](C1=CC=CC=C1)[S:20]C(F)(F)F 10=20;20,21=21,22;22,23=23"
